US06429315B1
Five grams of 3-chloro-2-(2-aminobutyl)thiophene is dissolved in 10 ml of methylene chloride in a 3-neck round bottomed flask blanketed with an inert atmosphere at 0° C. Pyridine (2.2 ml) is added in one portion followed by 6.74 g of 4-bromobenzenesulfonyl chloride which had been previously dissolved in 10 ml of methylene chloride. After the addition is complete, the mixture is stirred at ambient temperature for 3 hours and then at reflux for 2 hours. Two equivalents of triethylamine are added and the mixture is allowed to stir for 14 hours at ambient temperature before diluting with 100 ml of diethyl ether. The solution is poured into a separatory funnel and washed with water, dilute 1N HCl, saturated aqueous sodium bicarbonate and brine, dried over magnesium sulfate, filtered and concentrated in vacuo to provide (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]-4-bromobenzenesulfonamide (8.3 g) as an orange oil which solidifies on standing. MS: m/z (E1, 70EV) 410 (15%). 1H NMR (200 MHz; CDCl3): δ 0.9 (3H, t, CH3), 1.6 (2H, m, CH2), 2.85 (2H, d, CH2), 3.45 (1H, m, CH), 6.75 (1H, d, CH), 7.1 (1H, d, CH), 7.4-7.8 (4H, m, Ph).

reactant | 3-chloro-2-(2-aminobutyl)thiophene | Five grams | ClC1=C(SC=C1)CC(CC)N | C8H12ClNS
reactant | Pyridine | 2.2 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-bromobenzenesulfonyl chloride | 6.74 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | triethylamine | Two equivalents | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]-4-bromobenzenesulfonamide | 8.3 g | ClC1=C(SC=C1)C[C@@H](CC)NS(=O)(=O)C1=CC=C(C=C1)Br | C14H15BrClNO2S2
